US05116404
1.7 g of malonic acid dichloride was added dropwise to a 50 ml 1,4-dioxane solution of 2.4 g of 2,4,6-trichlorophenylurea with stirring at 0° C. The solution was stirred at room temperature for 3 hours and then the solvent was distilled away under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography (developing solvent: chloroform) to obtain 2.35 g of 3-(2,4,6-trichlorophenyl)-6-hydroxy-2,4(1H,3H)-pyrimidinedione.

reactant | malonic acid dichloride | 1.7 g | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | 2,4,6-trichlorophenylurea | 2.4 g | ClC1=C(C(=CC(=C1)Cl)Cl)NC(=O)N | C7H5Cl3N2O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-(2,4,6-trichlorophenyl)-6-hydroxy-2,4(1H,3H)-pyrimidinedione | 2.35 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(NC(=CC1=O)O)=O | C10H5Cl3N2O3
